US06271225B1
To a solution of N-(2-hydroxy-5-methylphenyl)-2-bromo-3-thiophenecarboxamide (2.9 g) in dimethyl sulfoxide (24 ml) was added potassium carbonate (2.4 g) and the mixture was stirred at 140-150° C. for 2 hours. The reaction system was cooled to room temperature and the reaction mixture was poured into ice water. The precipitated crystals were collected by filtration. The filtrate was extracted twice with chloroform and the organic layer was dried over sodium sulfate. The solvent was evaporated under reduced pressure. The residue and the above-mentioned crystals were combined and purified by silica gel column chromatography (chloroform:methanol=20:1). The obtained solid was collected by filtration from hexane to give 2,7-dimethylthieno[2,3-b][1,5]benzoxazepin-4(5H)-one (1.0 g).

reactant | N-(2-hydroxy-5-methylphenyl)-2-bromo-3-thiophenecarboxamide | 2.9 g | OC1=C(C=C(C=C1)C)NC(=O)C1=C(SC=C1)Br | C12H10BrNO2S
reactant | potassium carbonate | 2.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 24 ml | CS(=O)C | C2H6OS
product | 2,7-dimethylthieno[2,3-b][1,5]benzoxazepin-4(5H)-one | 1.0 g | CC1=CC2=C(OC3=C(NC2=O)C=C(C=C3)C)S1 | C13H11NO2S
